US05444080
A mixture of methyl 3-[2-n-butyl-1-benzyl-1H-imidazol-5yl]-2-benzylpropanoate (0.12 g, 0.31 mmol) in 50% aqueous ethanol (4 mL) containing potassium hydroxide (0.072 g, 1.28 mmol) was stirred at 25° C. for 18 hours. The basic solution was diluted with water (8 mL), and extracted with diethyl ether. The water solution was acidified with aqueous hydrochloric acid solution to pH 4, and the product was extracted into methylene chloride, dried, and concentrated. This crude material was dissolved in acetone and acidified with ethereal hydrochloric acid to give a precipitate. Crystallization from acetone/ether provided 0.07 g of 3-[2-n-butyl-1-benzyl-1H-imidazol-5-yl]-2-benzylpropanoic acid; mp 148°-150° C. (hydrochloride salt).

reactant | methyl 3-[2-n-butyl-1-benzyl-1H-imidazol-5yl]-2-benzylpropanoate | 0.31 mmol, 0.12 g | C(CCC)C=1N(C(=CN1)CC(C(=O)OC)CC1=CC=CC=C1)CC1=CC=CC=C1 | C25H30N2O2
reactant | potassium hydroxide | 1.28 mmol, 0.072 g | [OH-].[K+]
solvent | ethanol | 4 mL | C(C)O | C2H6O
solvent | water | 8 mL | O | H2O
product | 3-[2-n-butyl-1-benzyl-1H-imidazol-5-yl]-2-benzylpropanoic acid | 0.07 g | C(CCC)C=1N(C(=CN1)CC(C(=O)O)CC1=CC=CC=C1)CC1=CC=CC=C1 | C24H28N2O2
